US05965679
B. 3,3'-(1,4-Phenylene)bis(2,4,5-triphenylcyclopentadienone) (Compound B)
1,3-Diphenylacetone (1.23 g, 0.00584 mol), 1,4-bis(phenylglyoxaloyl)benzene, commercially available as Bis-PGB from Ken Seika Corporation (1.000 g, 0.00292 mol) and ethanol (50 mL) are added to a 100 mL 3-necked round bottom flask fitted with a reflux condenser/nitrogen inlet. The reaction mixture is heated to reflux and an aqueous KOH solution (0.112 g, 0.002 mol) in water (2.25 mL) is added. Additional KOH is added until the solution turns dark and stays dark. The mixture is refluxed for 45 minutes and then allowed to cool. A dark solid which precipitates is collected by filtration and analyzed by 1H-NMR, 13C-NMR, HPLC and FT-IR. All data is consistent with the formation of Compound B.

reactant | 1,3-Diphenylacetone | 0.00584 mol, 1.23 g | C1(=CC=CC=C1)CC(=O)CC1=CC=CC=C1 | C15H14O
reactant | 1,4-bis(phenylglyoxaloyl)benzene | C1(=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)=O)=O | C22H14O4
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | KOH | 0.002 mol, 0.112 g | [OH-].[K+]
solvent | water | 2.25 mL | O | H2O
product | 3,3'-(1,4-Phenylene)bis(2,4,5-triphenylcyclopentadienone) | C1(=CC=C(C=C1)C1=C(C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1)C1=C(C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C52H34O2
